US20010021718A1
(3R)-6-Cyclohexyl-N-hydroxy-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanamide
A solution of ((3R)-6-cyclohexyl-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 51) (245 mg, 0.76 mmol) in anhydrous tetrahydrofuran (10 ml) was treated with 1,1′-carbonyldiimidazole (123 mg, 0.76 mmol) and the mixture stirred at room temperature under a nitrogen atmosphere for 1 hour. Hydroxylamine hydrochloride (53 mg, 0.76 mmol) was then added and the mixture stirred for 18 hours. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:0.88 ammonia (95:5:0.5). The residue was dissolved in ethyl acetate, washed with hydrochloric acid (1M), dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as an oil (100 mg)

reactant | (3R)-6-cyclohexyl-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 0.76 mmol, 245 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CCOC | C17H28N2O4
reactant | 1,1′-carbonyldiimidazole | 0.76 mmol, 123 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Hydroxylamine hydrochloride | 0.76 mmol, 53 mg | Cl.NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3R)-6-Cyclohexyl-N-hydroxy-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanamide | 100 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)CCOC | C17H29N3O4
